US07855227B2
Step B [2-[4-(3-Fluoro-benzyloxy)-3-methoxy-phenyl]-ethyl]-carbamic acid tert-butyl ester
34.6 g (0.23 mol) of 1-chloromethyl-3-fluoro-benzene in 50 ml of dry dimethylformamide were added to a suspension of 55.9 g (0.209 mol) of [2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-carbamic acid tert-butyl ester, 43 g of K2CO3 and 3.4 g of potassium iodide in 400 ml of dry dimethylformamide. The reaction was stirred at room temperature overnight. Solvent was removed, water was added to the residue and the product was extracted with ethyl acetate. The crude oil obtained was triturated with diethyl ether. The solid was filtered and 58.2 g (74% yield) of the title product were obtained.

reactant | 1-chloromethyl-3-fluoro-benzene | 0.23 mol, 34.6 g | ClCC1=CC(=CC=C1)F | C7H6ClF
reactant | [2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 0.209 mol, 55.9 g | C(C)(C)(C)OC(NCCC1=CC(=C(C=C1)O)OC)=O | C14H21NO4
reactant | K2CO3 | 43 g | C(=O)([O-])[O-].[K+].[K+]
reactant | potassium iodide | 3.4 g | [I-].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | [2-[4-(3-Fluoro-benzyloxy)-3-methoxy-phenyl]-ethyl]-carbamic acid tert-butyl ester | 58.2 g, 74% yield | C(C)(C)(C)OC(NCCC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)OC)=O | C21H26FNO4
